US08076364B2
2-Bromo-6-iodo-3-methoxy-pyridine (500 mg) is dissolved in dry toluene (5 ml) and thereto is added dropwise 1.6M n-butyllithium in hexane (1 ml) at −78° C. under nitrogen atmosphere, and the mixture is stirred for 1 hour and thereto is added acetone (0.23 ml), and the mixture is stirred overnight. To the reaction solution are added water and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=4:1→6:2) to give 2-(6-bromo-5-methoxy-pyridin-2-yl)-propan-2-ol (197 mg). MS (m/z): 246/248 [M+H]+

reactant | 2-Bromo-6-iodo-3-methoxy-pyridine | 500 mg | BrC1=NC(=CC=C1OC)I | C6H5BrINO
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | acetone | 0.23 ml | CC(=O)C | C3H6O
reactant | water | O | H2O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 1 ml | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(6-bromo-5-methoxy-pyridin-2-yl)-propan-2-ol | 197 mg | BrC1=C(C=CC(=N1)C(C)(C)O)OC | C9H12BrNO2
